US06967197B2
To a solution of tert-butyl 2-[7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (3.03 g) in ethanol (90 ml) was added (1R)-10-camphorsulfonic acid (912 mg) at 80° C. The clear solution was allowed to cool to room temperature with stirring for 2 hours to form crystalline solids. After being cooled on an ice bath for 30 minutes, the solids were collected and washed with ethanol to give tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10-camphorsulfonate (1.79 g, 91.6% ee) as a white solid.

reactant | tert-butyl 2-[7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 3.03 g | BrC1=CC=C(S1)C1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C | C15H22BrNO4S2
reactant | (1R)-10-camphorsulfonic acid | 912 mg | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | tert-butyl 2-[(S)-7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate•(1R)-10-camphorsulfonate | 1.79 g | BrC1=CC=C(S1)[C@]1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C.[C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/C15H22BrNO4S2.C10H16O4S/c1-14(2,3)21-13(18)10-15(11-4-5-12(16)22-11)6-7-17-8-9-23(15,19)20;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h4-5,17H,6-10H2,1-3H3;7H,3-6H2,1-2H3,(H,12,13,14)/p-1/t15-;7?,10-/m00/s1
